US04423047
2-Phenylthio-5-chloropyrimidine
A solution of thiophenol (60 mmol) in 0.43 M sodium ethoxide (150 ml) and a solution of 2,5-dichloropyrimidine (60 mmol) in absolute ethanol (90 ml) were mixed and heated under reflux for 2 h. The cold mixture was then filtered, the filtrate evaporated, the residual material dissolved in chloroform (150 ml), the chloroform solution washed with 2 M NaOH (2×15 ml) and water (15 ml) and the dried (MgSO4) solution evaporated leaving an oily material which crystallized in the cold; yield 70%, m.p. 47° C. (ligroin). 1H NMR (CDCl3): δ7.4(Ph), 8.33 (H-4, H-6).

reactant | thiophenol | 60 mmol | C1(=CC=CC=C1)S | C6H6S
reactant | 2,5-dichloropyrimidine | 60 mmol | ClC1=NC=C(C=N1)Cl | C4H2Cl2N2
solvent | sodium ethoxide | 0.43 M, 150 ml | [O-]CC.[Na+]
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 2-Phenylthio-5-chloropyrimidine | yield 70% | C1(=CC=CC=C1)SC1=NC=C(C=N1)Cl | C10H7ClN2S
